US07750161B2
A12.2. 4-(Benzyl-methyl-carbamoyl)-4-phenyl-piperidine-1-carboxylic acid benzyl ester
A mixture of 4-phenyl-piperidine-1,4-dicarboxylic acid monobenzyl ester (3.39 g, 10 mmol) and SOCl2 (7 mL, 100 mmol) in CHCl3 (150 mL) is heated at reflux for 3 h. The solvent and excess SOCl2 are evaporated into a cold trap and the residue is redissolved in CHCl3 (50 mL). The solution is added to a solution of methylbenzylamine (1.45 g, 12 mmol) and DIPEA (2 mL, 12 mmol) in cold (0° C.) CHCl3 (100 mL). The mixture is stirred for 15 h at r.t. and then quenched with sat. aq. Na2CO3 (50 mL). The phases are separated and the aq. phase is extracted with CH2Cl2 (2×50 mL). The combined organic extracts are washed with 1N aq. HCl (50 mL) and sat. aq. NaCl (50 mL), dried (Na2SO4), filtered and evaporated. The residue is purified by FC (SiO2, heptane-EtOAc) to provide the title compound.

reactant | 4-phenyl-piperidine-1,4-dicarboxylic acid monobenzyl ester | 10 mmol, 3.39 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C20H21NO4
reactant | SOCl2 | 100 mmol, 7 mL | O=S(Cl)Cl | Cl2OS
reactant | methylbenzylamine | 12 mmol, 1.45 g | CNCC1=CC=CC=C1 | C8H11N
reactant | DIPEA | 12 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(Benzyl-methyl-carbamoyl)-4-phenyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(N(C)CC1=CC=CC=C1)=O | C28H30N2O3
